US05504244
A mixture of 3-cyanophenylacetic acid (13 g, 0.08 mole) and thionyl chloride (100 ml) is heated under reflux for 90 minutes. The excess thionyl chloride is removed by evaporation under reduced pressure. The residue is dissolved in methylene chloride (20 ml) and the resulting solution added to aluminum chloride (16.2 g, 0.12 mole) in methylene chloride (200 ml) with vigorous stirring. A solution of 1-phenylheptane (14.3 g, 0.12 mole) in methylene chloride (50 ml) is then added over 20 minutes. The reaction mixture is heated under reflux (1 hour) and then poured into ice water (1 liter) with vigorous stirring. The mixture is extracted twice with ether (600 ml and 100 ml). The extracts are combined, dried over magnesium sulfate and evaporated under reduced pressure. The residue is chromatographed on silica gel (hexane/ether) to give 3-(4-n-heptylphenacyl)benzonitrile (7.6 g) as a White crystalline solid, m.p. 68° C. Then, 3-(4-n-heptylphenacyl)benzonitrile (1.5 g, 4.7 mole) is heated under reflux (1 hour) in a mixture of 75% aqueous sulfuric acid (12 g) and acetic acid (12 g). The reaction mixture is diluted with water (100 ml) and extracted with ether (2×75 ml). The ether extract is dried over magnesium sulfate, filtered and evaporated under reduced pressure. The resulting yellow solid is chromatographed on silica gel (hexane:ether:acetic acid; 60:40:1) and recrystallized from heptane to give 3-(4-n-heptylphenacyl)benzoic acid (1 g) as a pale yellow crystalline solid, 128°-133°C.

reactant | 3-(4-n-heptylphenacyl)benzonitrile | 4.7 mole, 1.5 g | C(CCCCCC)C1=CC=C(C(CC=2C=C(C#N)C=CC2)=O)C=C1 | C22H25NO
reactant | acetic acid | 12 g | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 12 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 3-(4-n-heptylphenacyl)benzoic acid | 1 g | C(CCCCCC)C1=CC=C(C(CC=2C=C(C(=O)O)C=CC2)=O)C=C1 | C22H26O3
